US07265246B2
Mix 4-Phenyl oxazole (3.33 g, 23.0 mmol) and ethyl phenylpropiolate (4.0 g, 23.0 mmol) in a sealed tube and heat at 220° C. for 20 hours. Perform flash-chromatography on silica gel eluting with 4:1 Hex/ethyl acetate to afford 3.9 g of 4-phenylfuran-3-carboxylic acid ethyl ester as a yellow oil. MS: m/e=217 (MH+).

reactant | 4-Phenyl oxazole | 23.0 mmol, 3.33 g | C1(=CC=CC=C1)C=1N=COC1 | C9H7NO
reactant | ethyl phenylpropiolate | 23.0 mmol, 4.0 g | C1(=CC=CC=C1)C#CC(=O)OCC | C11H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-phenylfuran-3-carboxylic acid ethyl ester | 3.9 g | C(C)OC(=O)C1=COC=C1C1=CC=CC=C1 | C13H12O3
